US09301951B2
2-(2-(3-((4-(2-hydroxyethyl)-1H-1,2,3-triazol-1-yl)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(azidomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (55 mg, 0.09 mmol, 1.00 equiv, 95%) in DMSO (3 mL), but-3-yn-1-ol (19 mg, 0.27 mmol, 3.00 equiv), and copper(I) iodide (0.84 mg, 0.05 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 10 mL of 10% NH3.H2O. The resulting solution was extracted with 5×30 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product (60 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 10 mg (14%) of a yellow to green solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.48 (s, 1H), 9.55-9.58 (t, J=6 Hz, 1H), 8.93 (s, 1H), 8.36 (s, 2H), 7.96 (s, 1H), 7.85-7.96 (s, 1H), 7.71-7.77 (m, 3H) 7.64 (s, 1H), 7.55-7.60 (m, 5H), 7.44 (s, 1H), 5.67 (s, 2H), 4.63 (t, 2H), 3.58-3.61 (t, 2H), 3.40 (s, 4H), 2.75-2.77 (t, J=9 Hz, 2H), 1.61-1.78 (d, 6H). MS (ES, m/z): 684 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(azidomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.09 mmol, 55 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CN=[N+]=[N-])=O)=O)C=CC1)(F)F | C33H30F3N7O2
reactant | but-3-yn-1-ol | 0.27 mmol, 19 mg, 3.00 equiv | C(CC#C)O | C4H6O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | NH3.H2O | 10 mL | N.O
catalyst | copper(I) iodide | 0.84 mg, 0.05 equiv | [Cu]I
product | 2-(2-(3-((4-(2-hydroxyethyl)-1H-1,2,3-triazol-1-yl)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | OCCC=1N=NN(C1)CC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)NCC3=CC(=CC=C3)C(F)(F)F)C=CN2)C=CC1 | C37H36F3N7O3
